US07615555B2
Preparation of (2E)-3-[(2S)-2-methyltetrahydro-2H-pyran-4-yl]acrylic acid
To a suspension of (methoxymethyl)triphenyl phosphine chloride (32 g) in anhydrous THF (160 ml), cooled to −10° C., was added dropwise sodium bis(trimethylsilyl) amide (46.7 ml of 2M solution in THF). The reaction mixture was stirred for 1 hour and then a solution of (2S)-2-methyltetrahydro-4H-pyran-4-one (7.1 g) in anhydrous THF (20 ml) was added over 5 minutes. The resulting mixture was allowed to warm to room temperature and stirred for 3 hours. The reaction was quenched with water (50 ml) and extracted with diethyl ether (3×100 ml). The organics were dried and evaporated to dryness. The resulting gum was treated with diethyl ether and filtered. The organics were evaporated to dryness and the resulting residue was purified by chromatography on silica eluting with ethyl acetate/isohexane (1:9) to give the title compound (˜1:1 E/Z mixture of isomers) as an oil. Yield 6.22 g. NMR CDCl3 1.1 (dd, 3H), 1.45-2.1 (m, 3H), 2.4-2.55 (m, 1H), 3.2 (m, 2H), 3.4 (s, 3H), 3.85 (m, 1H) 5.7 (m, 1H).

reactant | (methoxymethyl)triphenyl phosphine chloride | 32 g | [Cl-].COCP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium bis(trimethylsilyl) amide | 2M, 46.7 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | (2S)-2-methyltetrahydro-4H-pyran-4-one | 7.1 g | C[C@@H]1OCCC(C1)=O | C6H10O2
reactant | THF | 160 ml | C1CCOC1 | C4H8O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
product | (2E)-3-[(2S)-2-methyltetrahydro-2H-pyran-4-yl]acrylic acid | C[C@@H]1OCCC(C1)/C=C/C(=O)O | C9H14O3
